US05834468
To a solution of 2-(5-bromo-2-methoxyphenyl)-4,4-dimethyl-4,5-dihydrooxazole (31.21 g) in THF (40 ml) was added PhCH2CH2MgBr (0.22 mol) as a solution in diethyl ether (240 ml). The mixture was stirred for 18 hours, the solvents evaporated and the residue partitioned between ethyl acetate and saturated aqueous ammonium chloride. The organic layer was separated, evaporated and the resulting residue purified by MPLC eluting with dichloromethane to give 2-(5-bromo-2-(phenethyl)phenyl)-4,4-dimethyl-4,5-dihydrooxazole (40.56 g).

reactant | 2-(5-bromo-2-methoxyphenyl)-4,4-dimethyl-4,5-dihydrooxazole | 31.21 g | BrC=1C=CC(=C(C1)C=1OCC(N1)(C)C)OC | C12H14BrNO2
reactant | PhCH2CH2MgBr | 0.22 mol | C1(=CC=CC=C1)CC[Mg]Br
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 240 ml | C(C)OCC | C4H10O
product | 2-(5-bromo-2-(phenethyl)phenyl)-4,4-dimethyl-4,5-dihydrooxazole | 40.56 g | BrC=1C=CC(=C(C1)C=1OCC(N1)(C)C)CCC1=CC=CC=C1 | C19H20BrNO
